US05256679
A mixture of S,N-dimethyl-N'-nitroisothiourea (0.5 g), CH3CN (6 ml) and pyridine (1 ml) was cooled to 0° C. To the cooled mixture was added benzoyl chloride (1 g) dropwise in 5 minutes under stirring. After stirring at the same temperature for 1 hour, benzoyl chloride (0.4 g) was added to the mixture which was stirred at room temperature for 1 hour. The reaction mixture was poured into 50 ml of 2N hydrochloric acid and the resulting mixture was extracted with CHCl3. The extract was dried over MgSO4 and evaporated in vacuo. The resulting residue was applied to column chromatography on silica gel. The column was eluted with hexane-AcOEt (5:1) to afford 0.71 g of crude N-benzoyl-S,N-dimethyl-N'-nitroisothiourea as an oil. To the solution of the product (0.636 g) in CH3CN (4 ml) was added a solution of 2-chloro-5-thiazolylmethylamine (0.37 g) in CH3CN (2 ml) dropwise at 0° C. over 5 minutes. After stirring at the same temperature for 25 minutes, precipitates were collected by filtration and the product was applied to column chromatography on silica gel. The column was eluted with CH2Cl2 -MeOH (20:1) to afford 0.344 g of 1-benzoyl-3-(2-chloro-5-thiazolylmethyl)-l-methyl-2-nitroguanidine (Compound No. 15) as a crystal, m.p. 170°-172° C.

reactant | S,N-dimethyl-N'-nitroisothiourea | 0.5 g | CSC(NC)=N[N+](=O)[O-] | C3H7N3O2S
reactant | CH3CN | 6 ml | CC#N | C2H3N
reactant | benzoyl chloride | 1 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | benzoyl chloride | 0.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-benzoyl-S,N-dimethyl-N'-nitroisothiourea | 0.71 g | C(C1=CC=CC=C1)(=O)N(C(SC)=N[N+](=O)[O-])C | C10H11N3O3S
